US09062070B2
A 250 mL round bottomed flask was charged with N-[5-bromo-4-(2-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide (1.9 g, 6.31 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.173 g, 0.189 mmol), and 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropylbiphenyl (0.180 g, 0.379) and the mixture was flushed with nitrogen for 30 min. tetrahydrofuran was added, followed by a solution of 2-tert-butoxy-2-oxoethylzinc chloride in diethyl ether (0.5 M, 47.9 mL) and the mixture was placed in an oil bath maintained at 45° C. After 12 h, the reaction was recharged with tris(dibenzylideneacetone)dipalladium(0) (0.173 g, 0.189 mmol) and 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropylbiphenyl (0.180 g, 0.379) and an additional quantity of 2-tert-butoxy-2-oxoethylzinc chloride in diethyl ether (0.5 M, 12.6 mL) was added. After stirring an additional 2 h in the 45° C. bath, the reaction mixture was diluted with ethyl acetate and 10% ammonium hydroxide solution, filtered to remove solids, and the layers separated. The organic layer was washed with water and brine, dried (Na2SO4), filtered and concentrated. Purification by MPLC (eluent 9-90% ethyl acetate/hexanes) afforded tert-butyl{6-[(2,2-dimethylpropanoyl)amino]-4-(2-hydroxyethyl)pyridin-3-yl}acetate: LC/MS (M+1)+=337.0.

reactant | N-[5-bromo-4-(2-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide | 6.31 mmol, 1.9 g | BrC=1C(=CC(=NC1)NC(C(C)(C)C)=O)CCO | C12H17BrN2O2
reactant | 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropylbiphenyl | 0.180 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropylbiphenyl | 0.180 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | 2-tert-butoxy-2-oxoethylzinc chloride | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
solvent | diethyl ether | 0.5 M, 12.6 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium hydroxide | [OH-].[NH4+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.189 mmol, 0.173 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.189 mmol, 0.173 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl{6-[(2,2-dimethylpropanoyl)amino]-4-(2-hydroxyethyl)pyridin-3-yl}acetate | C(C)(C)(C)OC(CC=1C=NC(=CC1CCO)NC(C(C)(C)C)=O)=O | C18H28N2O4
